US09447141B2
5,6α-epoxicampestane-3β,17-diol (6.8 g, 22.1 mmol, 1 eq) and histamine (4.9 g, 44.1 mmol, 2 eq) were charged in a round-bottomed flask equipped with a magnetic stirrer bar. 1-Butanol (70 ml, 5 vol) was added and the mixture heated to reflux for 40 h. The reaction mixture was cooled at r.t., diluted with methyl-tertbutyl-ether (5 vol) and washed with water (5 vol) and with brine (5 vol). The organic layer was passed through a silica pad (40 g) eluted with methyl-tertbutyl-ether (3 vol) then 10% Methanol/ethyl acetate (60 vol). Fractions of interest were pooled and the solvent was removed under reduced pressure to give (5α-Hydroxy-6β-[2-(1H-imidazol-4-yl)-ethylamino]-campestane-3β,17-diol) as a white solid (5.7 g, 49%). In same conditions, use of ethanol as solvent (40 vol) and Ca(OTf)2 as catalyst gave a 13% yield.

reactant | 5,6α-epoxicampestane-3β,17-diol | 22.1 mmol, 6.8 g, 1 eq | O1C23[C@@H]1C[C@H]1[C@@H]4CC[C@]([C@@H](CC[C@H](C(C)C)C)C)([C@]4(CC[C@@H]1[C@]3(CC[C@@H](C2)O)C)C)O | C28H48O3
reactant | histamine | 44.1 mmol, 4.9 g, 2 eq | NCCC1=CNC=N1 | C5H9N3
reactant | 1-Butanol | 70 ml | C(CCC)O | C4H10O
solvent | methyl-tertbutyl-ether | COC(C)(C)C | C5H12O
product | 5α-Hydroxy-6β-[2-(1H-imidazol-4-yl)-ethylamino]-campestane-3β,17-diol | 13% yield | O[C@]12[C@@H](C[C@H]3[C@@H]4CC[C@]([C@@H](CC[C@H](C(C)C)C)C)([C@]4(CC[C@@H]3[C@]2(CC[C@@H](C1)O)C)C)O)NCCC=1N=CNC1 | C33H57N3O3
